US07820654B2
Synthesis of phthalic acid mono-[1-(2,6-diphenyl-pyrimidin-4-yl)-piperidin-4-yl]ester
The title compound was prepared by reacting 1-(2,6-diphenyl-pyrimidin-4-yl)-piperidin-4-ol (0.25 g, 0.75 mmol) with pthalic anhydride (0.335 g, 2.0 mmol) in presence of DMAP (0.13 g, 10 mmol) in solvent DCE (10 mL) at refluxing temperature for 2 hours, followed by column purification.

reactant | 1-(2,6-diphenyl-pyrimidin-4-yl)-piperidin-4-ol | 0.75 mmol, 0.25 g | C1(=CC=CC=C1)C1=NC(=CC(=N1)N1CCC(CC1)O)C1=CC=CC=C1 | C21H21N3O
reactant | pthalic anhydride | 2.0 mmol, 0.335 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
catalyst | DMAP | 10 mmol, 0.13 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | phthalic acid mono-[1-(2,6-diphenyl-pyrimidin-4-yl)-piperidin-4-yl]ester | C1(=CC=CC=C1)C1=NC(=CC(=N1)N1CCC(CC1)OC(C=1C(C(=O)O)=CC=CC1)=O)C1=CC=CC=C1 | C29H25N3O4
